US04780466
8-[3-[4-(2-Benzothiazolyl)-1-piperazinyl]propyloxy]-8-azaspiro[4.5]decan-7,9-dione
To a solution of 8-(3-bromopropyloxy)-8-azaspiro[4.5]decan-7,9-dione (5.0 g) and 1-(2-benzothiazolyl)piperazine (3.6 g) in 100 ml of anhydrous CH3CN was added diisopropylethylamine (5.7 ml). The mixture was stirred at room temperature for 18 hours.

reactant | 8-(3-bromopropyloxy)-8-azaspiro[4.5]decan-7,9-dione | 5.0 g | BrCCCON1C(CC2(CCCC2)CC1=O)=O | C12H18BrNO3
reactant | 1-(2-benzothiazolyl)piperazine | 3.6 g | S1C(=NC2=C1C=CC=C2)N2CCNCC2 | C11H13N3S
reactant | diisopropylethylamine | 5.7 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | 8-[3-[4-(2-Benzothiazolyl)-1-piperazinyl]propyloxy]-8-azaspiro[4.5]decan-7,9-dione | S1C(=NC2=C1C=CC=C2)N2CCN(CC2)CCCON2C(CC1(CCCC1)CC2=O)=O | C23H30N4O3S
